US08729105B2
Preparation of 2-(4-Chloro-phenyl)-3-cyclopropylmethoxy-pyridine
To a mixture of 16.20 g cyclopropanmethanol in 150 ml dry DMSO 11 g sodium hydride (55%) was added and the mixture was stirred at room temperature for 30 minutes. A solution containing 37.30 g 2-(4-chloro-phenyl)-3-fluoro-pyridine in 50 mL dry DMSO was added dropwise. The reaction mixture was then stirred at room temperature for 3 h. The resulting suspension was partitioned between water and methylene chloride, the phases were separated. The organic phase was washed with brine; then dried over MgSO4 and purified by chromatography on silica gel with a gradient of heptane to heptane:ethylacetate=2:1 to yield 34.95 g (74.90%) of the title compound as yellow oil, MS 260.1 (M+H)+.

reactant | cyclopropanmethanol | 16.20 g | C1(CC1)CO | C4H8O
reactant | 2-(4-chloro-phenyl)-3-fluoro-pyridine | 37.30 g | ClC1=CC=C(C=C1)C1=NC=CC=C1F | C11H7ClFN
solvent | DMSO | 150 ml, 11 g | CS(=O)C | C2H6OS
solvent | DMSO | 50 mL | CS(=O)C | C2H6OS
product | 2-(4-Chloro-phenyl)-3-cyclopropylmethoxy-pyridine | 34.95 g, 74.90% | ClC1=CC=C(C=C1)C1=NC=CC=C1OCC1CC1 | C15H14ClNO
